US04652651
190 mg (1 mmol) of (3S,4R)-3-amino-4-ethynyl-2-oxo-1-azetidinesulphonic acid, 526 mg (1.1 mmol) of 2-(2-amino-4-thiazolyl)-2-[[(Z)-1-(t-butoxycarbonyl)-1-methylethoxy]-imino]-acetic acid 2-benzthiazolyl thioester and 0.280 ml (2 mmol) of triethylamine are stirred at room temperature for 20 hours in 5 ml of acetone/water (4:1). Thereupon, the mixture is concentrated, the residue is taken up in 4 ml of methanol and filtered. The filtrate is chromatographed over reverse-phase silica gel using water/methanol (10:1). After lyophilization there are obtained 213 mg of (3S,4R)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-tert-butoxycarbonyl)-1-methylethoxy]imino]acetamido]-4-ethynyl-2-oxo-1-azetidinesulphonic acid as an amorphous powder.

reactant | (3S,4R)-3-amino-4-ethynyl-2-oxo-1-azetidinesulphonic acid | 1 mmol, 190 mg | N[C@@H]1C(N([C@@H]1C#C)S(=O)(=O)O)=O | C5H6N2O4S
reactant | triethylamine | 2 mmol, 0.280 ml | C(C)N(CC)CC | C6H15N
solvent | acetone water | 5 ml | CC(=O)C.O
product | 4-ethynyl-2-oxo-1-azetidinesulphonic acid | C(#C)C1CC(N1S(=O)(=O)O)=O | C5H5NO4S
